US08486939B2
Similarly to Example 56, a mixture of 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole (148 mg, 0.374 mmol), 2-methoxy-5-pyrimidinylboronic acid (211 mg, 1.52 mmol), PdCl2(dppf) (40 mg, 0.05 mmol) and aq. K2CO3 (2M, 4 mL) in 1,4-dioxane (20 mL) was refluxed under nitrogen for 24 hrs. After cooling to room temperature, the mixture was diluted with H2O, and extracted with CH2Cl2 (4×). The combined organic extracts were dried (Na2SO4), and the solvents were removed under vacuum. Chromatography on silica, eluting with CH2Cl2/MeOH (100:0 to 98:2), followed by recrystallization from CH2Cl2/MeOH/i-Pr2O gave 2-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-2′-methoxy-4,5′-bipyrimidine (61 mg, 35%): mp 238-241° C.; 1H NMR (CDCl3) δ 9.18 (s, 2H), 7.91 (d, J=8.1 Hz, 1H), 7.49 (t, JHF=53.6 Hz, 1H), 7.37 (t, J=8.2 Hz, 1H), 6.83 (d, J=7.9 Hz, 1H), 6.77 (s, 1H), 4.13 (s, 3H), 4.07 (s, 3H), 3.88 (dd, J=5.6, 3.7 Hz, 4H), 3.82 (m, 4H); Anal. Calcd. for C22H21F2N7O3: C, 56.3; H, 4.5; N, 20.9. Found: C, 56.1; H, 4.3; N, 20.6%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | 0.374 mmol, 148 mg | ClC1=NC(=NC(=C1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C17H16ClF2N5O2
reactant | 2-methoxy-5-pyrimidinylboronic acid | 1.52 mmol, 211 mg | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | K2CO3 | 2M, 4 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
catalyst | PdCl2(dppf) | 0.05 mmol, 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-2′-methoxy-4,5′-bipyrimidine | 61 mg, 35% | FC(C1=NC2=C(N1C1=NC(=CC(=N1)C=1C=NC(=NC1)OC)N1CCOCC1)C=CC=C2OC)F | C22H21F2N7O3
